US08377949B2
{1-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl]-cyclohexyl}-acetic acid
To a solution of {1-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl]-cyclohexyl}-acetic acid methyl ester (63 mg, 0.13 mmol) in dioxane (2.5 ml) is added a solution of LiOH monohydrate (25 mg, 0.60 mmol) in H2O (2.5 mL). The solution is stirred at 60° C. for 16 hours. The reaction mixture is allowed to cool to room temperature, quenches with 4M HCl in dioxane (500 μL) and is concentrated. The resulting residue is purified by flash chromatography with 6% MeOH in dichloromethane as the eluent to afford the title compound. LCMS (ESMS): m/z 474.18 (M+H+)

reactant | {1-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl]-cyclohexyl}-acetic acid methyl ester | 0.13 mmol, 63 mg | COC(CC1(CCCCC1)CN1C(N(C2=CC=CC=C2C1=O)CC1=CN(C2=CC=CC(=C12)C)C)=O)=O | C29H33N3O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 2.5 mL | O | H2O
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | {1-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl]-cyclohexyl}-acetic acid | CN1C=C(C2=C(C=CC=C12)C)CN1C(N(C(C2=CC=CC=C12)=O)CC1(CCCCC1)CC(=O)O)=O | C28H31N3O4
